US08541457B2
Synthesis of N-benzyl-2-(4-benzylbenzamido)-4-methylthiazole-5-carboxamide
To a solution of 2-amino-4-methyl-thiazole-5-carboxylic acid benzylamide (0.054 g, 0.22 mmol) and diisopropylethylamine (0.40 mL, 2.3 mmol) in dichloromethane (5 mL) was added 4-benzylbenzoic acid (0.057 g, 0.27 mmol), followed by the addition of N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.11 g, 0.28 mmol). The reaction was stirred at ambient temperature over 18 h then concentrated in vacuo. The crude product was purified by preparative HPLC (acetone/water gradient) to afford the title compound (0.003 g); MS (ES+) m/z 442 (M+1).

reactant | 2-amino-4-methyl-thiazole-5-carboxylic acid benzylamide | 0.22 mmol, 0.054 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
reactant | diisopropylethylamine | 2.3 mmol, 0.40 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-benzylbenzoic acid | 0.27 mmol, 0.057 g | C(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C14H12O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.28 mmol, 0.11 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-benzyl-2-(4-benzylbenzamido)-4-methylthiazole-5-carboxamide | 0.003 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)CC1=CC=CC=C1)=O)C | C26H23N3O2S
